### ISSUE TITLE
misformalisation(CryptoFoundations/Fork): `exists_log_of_mem_support_fork`

### ISSUE THREAD

**Issue by pitmonticone** [dtumad/VCV-io#95]
The lemma `exists_log_of_mem_support_fork` was negated by @Aristotle-Harmonic as follows: 

```lean
import VCVio.CryptoFoundations.SecExp
import VCVio.OracleComp.QueryTracking.SeededOracle
import VCVio.OracleComp.QueryTracking.LoggingOracle
import VCVio.OracleComp.Coercions.Append

import Mathlib

open Lean Meta Elab Tactic in
elab "revert_all" : tactic => do
  let goals ← getGoals
  let mut newGoals : List MVarId := []
  for mvarId in goals do
    newGoals := newGoals.append [(← mvarId.revertAll)]
  setGoals newGoals

open Lean.Elab.Tactic in
macro "negate_state" : tactic => `(tactic|
  (
    guard_goal_nums 1
    revert_all
    refine @(((by admit) : ∀ {p : Prop}, ¬p → p) ?_)
    try (push_neg; guard_goal_nums 1)
  )
)

/- ... -/

noncomputable section AristotleLemmas

/-
Disprove the forking lemma by constructing a counterexample where the logs agree at the forking
point due to the stateless nature of the seeded oracle.
-/

def seededOracle_stateless {ι : Type} [DecidableEq ι] {spec : OracleSpec ι} :
    QueryImpl spec (ReaderT (QuerySeed spec) (OracleComp spec)) :=
  idOracle.withPregen

def fork_bad {ι : Type} [DecidableEq ι] {spec : OracleSpec ι}
    [∀ i, SelectableType (spec.range i)] [spec.DecidableEq] [unifSpec ⊂ₒ spec]
    [spec.FiniteRange]
    (main : OracleComp spec α)
    (qb : ι → ℕ) (js : List ι) (i : ι)
    (cf : α → Option (Fin (qb i + 1))) :
    OracleComp spec (α × α) := do
  let seed ← generateSeed spec qb js
  let x₁ ← (simulateQ seededOracle_stateless main).run seed
  let s : Fin (qb i + 1) ← (cf x₁).getM
  let u ←$ᵗ spec.range i
  guard ((seed i)[s + 1]? ≠ some u)
  let seed' := (seed.takeAtIndex i s).addValue i u
  let x₂ ← (simulateQ seededOracle_stateless main).run seed'
  guard (cf x₂ = some s)
  return (x₁, x₂)

def counterexample_main : OracleComp unifSpec (Fin 2 × Fin 2) := do
  let x : Fin 2 ← liftM (OracleQuery.query 1 () : OracleQuery unifSpec (Fin 2))
  let y : Fin 2 ← liftM (OracleQuery.query 1 () : OracleQuery unifSpec (Fin 2))
  return (x, y)

def counterexample_qb : ℕ → ℕ := fun _ ↦ 2
def counterexample_js : List ℕ := [1, 1]
def counterexample_i : ℕ := 1
def counterexample_cf : Fin 2 × Fin 2 → Option (Fin (counterexample_qb counterexample_i + 1)) :=
  fun _ ↦ some 1

theorem fork_counterexample_proof :
  ∃ (x₁ x₂ : Fin 2 × Fin 2),
    (x₁, x₂) ∈ (fork_bad counterexample_main counterexample_qb counterexample_js counterexample_i
      counterexample_cf).support ∧
    ∀ log₁ log₂ : QueryLog unifSpec,
      (x₁, log₁) ∈ (simulateQ loggingOracle counterexample_main).run.support →
      (x₂, log₂) ∈ (simulateQ loggingOracle counterexample_main).run.support →
      (log₁.getQ counterexample_i)[1]? = (log₂.getQ counterexample_i)[1]? := by
        unfold OracleComp.counterexample_main OracleComp.counterexample_qb
          OracleComp.counterexample_js OracleComp.counterexample_i
            OracleComp.counterexample_cf at *; simp +decide at *;
        native_decide +revert

/-- Disprove the forking lemma by showing a counterexample where logs agree. -/
theorem forking_lemma_disproof :
  ∃ (x₁ x₂ : Fin 2 × Fin 2),
    (x₁, x₂) ∈ (fork counterexample_main counterexample_qb counterexample_js
    counterexample_i counterexample_cf).support ∧
    ∀ log₁ log₂ : QueryLog unifSpec,
      (x₁, log₁) ∈ (simulateQ loggingOracle counterexample_main).run.support →
      (x₂, log₂) ∈ (simulateQ loggingOracle counterexample_main).run.support →
      (log₁.getQ counterexample_i)[1]?.map Prod.snd =
      (log₂.getQ counterexample_i)[1]?.map Prod.snd := by
  use (0, 0), (0, 0)
  constructor
  · -- Show ((0,0), (0,0)) is in fork support
    -- We construct a seed that leads to this outcome
    -- seed 1 = [0, 0]
    -- u = 0
    -- seed' 1 = [0, 0]
    -- Guard passes
    native_decide +revert
  · -- Show logs agree
    intros log1 log2 h1 h2
    -- Logs are deterministic for this main and input
    -- log1 = [(1, (), 0), (1, (), 0)]
    -- log2 = [(1, (), 0), (1, (), 0)]
    -- They agree
    unfold OracleComp.counterexample_main at *; aesop;

end AristotleLemmas

theorem exists_log_of_mem_support_fork (x₁ x₂ : α)
    (h : (x₁, x₂) ∈ (fork main qb js i cf).support) :
      ∃ s, cf x₁ = some s ∧ cf x₂ = some s ∧
      ∃ log₁ : QueryLog spec, ∃ hcf₁ : ↑s < log₁.countQ i,
      ∃ log₂ : QueryLog spec, ∃ hcf₁ : ↑s < log₂.countQ i,
      (log₁.getQ i)[s].1 = (log₂.getQ i)[s].1 ∧
      (log₁.getQ i)[s].2 ≠ (log₂.getQ i)[s].2 ∧
      (x₁, log₁) ∈ (simulateQ loggingOracle main).run.support ∧
      (x₂, log₂) ∈ (simulateQ loggingOracle main).run.support := by
  convert fork_counterexample_proof using 1
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state
  -- Proof starts here:
  -- Let's choose any two different oracles, say `spec` and `unifSpec`.
  use ℕ, by infer_instance, unifSpec, by infer_instance, by infer_instance, by infer_instance,
    Fin 2 × Fin 2, counterexample_main, counterexample_qb, counterexample_js, counterexample_i,
      counterexample_cf, by infer_instance, (0, 0), (0, 0)
  -- Let's choose any two different oracles, say `spec` and `unifSpec`, and show that the
  -- forking lemma does not hold.
  apply fork_counterexample_proof.elim; intro x₁ hx₁; apply hx₁.elim; intro x₂ hx₂; exact (by
  refine' ⟨_, Or.inr ⟨ _, x₁, x₂, hx₂⟩⟩
  · native_decide +revert
  · simp +decide [OracleComp.counterexample_main, OracleComp.counterexample_qb,
      OracleComp.counterexample_js, OracleComp.counterexample_i, OracleComp.counterexample_cf] at *
    rintro x hx y hy hxy rfl rfl; contradiction)
```

**Comment by dtumad** [comment]
Thanks for this report and super cool that Harmonic was able to identify this automatically. The proper statement is the one-way implication that outputs of `fork` are in the original output, but the converse is untrue as Aristotle correctly found.

Closing this as this code is no longer present in main/release branches, and the development stuff for forking only relies on the one direction.
